data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_202817_1,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4](=[N:3]/[O:5][H:10])[O:7][H:8])([O:6][H:9])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([N:3]([O:5][H:8])[H:10])=[O:7])([O:6][H:9])[H:11],48.39468249998234
MR_321437_0,[C:1]([C:5](/[C:6]([C:2]([H:16])([H:17])[H:18])=[C:9](/[N:8]([H:10])[H:11])[H:12])=[C:7]([C:3]([H:19])([H:20])[H:22])[C:4]([H:21])([H:23])[H:24])([H:13])([H:14])[H:15]>>[C:1]([C:5]1=[C:6]([C:2]([H:16])([H:17])[H:18])[C:9]([N:8]([H:10])[H:11])([H:12])[C:7]1([C:3]([H:19])([H:20])[H:22])[C:4]([H:21])([H:23])[H:24])([H:13])([H:14])[H:15],32.72977250001091
MR_449972_2,[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[C:5]([N:3]=[O:7])([C:6]([H:8])([H:16])[H:17])[H:9])([H:10])([H:11])[H:15]>>[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[N:3]([C:5](=[C:6]([H:16])[H:17])[H:9])[O:7][H:8])([H:10])([H:11])[H:15],64.5088824999965
MR_352964_0,[C:1](=[C:6]([C:3]([H:19])([H:20])[H:21])[C:4]([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])([H:14])[H:15]>>[C:1]([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])([C:6]([C:3]([H:19])([H:20])[H:21])=[C:4]([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])([H:14])[H:15],53.88656249999201
MR_553784_2,[C:1]([C:3]([C:2]([H:10])([H:14])[H:15])=[N:6]/[N:7]=[C:4](/[O:5][H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([C:2]([H:10])([H:14])[H:15])[C:4]([O:5][H:8])([H:9])[N:7]=[N:6]1)([H:11])([H:12])[H:13],50.36754249999504
MR_261379_0,[C:1]1([C:2]([C:6]([H:18])([H:20])[H:21])([C:7]([H:19])([H:22])[H:23])[C:8](=[O:9])[H:10])([C:5]([H:15])([H:16])[H:17])[C:3]([H:12])([H:13])[C:4]1([H:11])[H:14]>>[C:1](=[C:2]([C:6]([H:18])([H:20])[H:21])[C:7]([H:19])([H:22])[H:23])([C:4]([C:3]([C:8](=[O:9])[H:10])([H:12])[H:13])([H:11])[H:14])[C:5]([H:15])([H:16])[H:17],53.6932924999806
MR_138604_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([N:6]([H:12])[H:13])=[O:7])([C:4]([N:5]([H:10])[H:11])=[O:8])[H:9]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:3](\[N:6]([H:12])[H:13])[O:7][C:4]([N:5]([H:10])[H:11])=[O:8])[H:9],66.13410749999517
MR_658576_1,[C:1]12([H:7])[N:3]([H:6])[C:2]([H:8])([O:4]1)[O:5]2>>[C:1]([N:3]([C:2](=[O:5])[H:8])[H:6])(=[O:4])[H:7],3.475722499999278
MR_208681_0,[C:1](/[C:4](=[C:2](\[C:3]([N:5]([H:11])[H:12])=[O:8])[O:6][H:9])[O:7][H:10])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([O:7][H:10])[C:2]([O:6][H:9])=[C:3]([N:5]([H:11])[H:12])[O:8]1)([H:13])([H:14])[H:15],55.17732999997904
MR_665754_1,[C:1](=[C:3]([N:5]([H:10])[H:11])[N:7]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])[O:6][H:9])([H:12])[H:13]>>[C:1](/[C:3]([N:5]([H:10])[H:11])=[N:7]/[O:6][H:9])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])([H:12])[H:13],42.37256499999162
MR_396225_1,[C:1]1([O:6][H:10])([O:7][H:9])[C:2]([H:11])([H:12])[N:8]=[C:4]([C:3]([H:13])([H:14])[H:15])[O:5]1>>[C:1]([C:2](/[N:8]=[C:4](/[C:3]([H:13])([H:14])[H:15])[O:5][H:9])([H:11])[H:12])([O:6][H:10])=[O:7],28.34919500001334
MR_594111_1,[C@@:1]([C:2]([H:15])([H:16])[H:17])([C:5]([C:3]([H:18])([H:19])[H:20])=[C:4]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([O:8][H:9])[H:10]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:5](\[C:3]([H:18])([H:19])[H:20])[C:4]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[O:8][H:9])[H:10],41.97284750000208
MR_351904_0,[N:1]([N:2]([O:5][H:9])[O:6][H:10])([O:3][H:7])[O:4][H:8]>>[N:1]([N:2]([O:4][H:8])[O:5][H:9])([O:3][H:7])[O:6][H:10],62.04029749995129
MR_680025_2,[C@:1]([N:2]([N:5]([H:13])[H:14])[O:8][N:4]([H:11])[H:12])([N:3]([N:6]([H:15])[H:16])[H:9])([N:7]([H:17])[H:18])[H:10]>>[C@:1]([N:2]([N:3]([N:6]([H:15])[H:16])[H:9])[N:5]([H:13])[H:14])([N:7]([H:17])[H:18])([O:8][N:4]([H:11])[H:12])[H:10],41.817227500002616
MR_393856_0,[C:1](/[C:3]([N:2]([N:4]([H:8])[H:9])/[C:5](=[N:7]/[H:11])[H:12])=[N:6]\[H:10])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[N:2]\[N:4]([H:8])[H:9])[N:6](/[C:5](=[N:7]/[H:11])[H:12])[H:10])([H:13])([H:14])[H:15],47.9121349999879
MR_399750_1,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])(/[C:6]([C:3]([H:18])([H:19])[H:20])=[C:5](\[N:7]([H:11])[H:12])[O:8][H:9])([H:13])[H:14]>>[C:1](=[C:6]([C:3]([H:18])([H:19])[H:20])[C:5]([N:4]([C:2]([H:15])([H:16])[H:17])[H:10])([N:7]([H:11])[H:12])[O:8][H:9])([H:13])[H:14],67.29623749998595
MR_53950_1,[C:1](/[C:3]([N:6]([H:13])[H:14])=[C:7](\[N:8]=[C:2]([N:4]([H:11])[H:12])[N:5]([H:9])[H:10])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:3]1([N:6]([H:13])[H:14])[C:2]([N:4]([H:11])[H:12])([N:5]([H:9])[H:10])[N:8]=[C:7]1[H:15])([H:16])([H:17])[H:18],49.8228724999791
MR_590705_1,[C:1]1([H:13])([H:14])[C:6](/[C:5](=[N:2]/[O:7][H:9])[H:12])([H:15])[C:3]([N:4]([H:10])[H:11])=[N:8]1>>[C:1]1([H:13])([H:14])[C:6]([H:15])=[C:5]([H:12])[N:2]([O:7][H:9])[C:3]([N:4]([H:10])[H:11])=[N:8]1,59.174505000017206
MR_29947_0,[C:1]([N:2]([H:7])[H:8])([N:3]([H:6])[H:9])=[C:5]([N:4]([H:10])[H:11])[H:12]>>[C:1](=[N:2]/[H:7])(\[N:3]([H:6])[H:9])[C:5]([N:4]([H:10])[H:11])([H:8])[H:12],50.169252499996304
